US07342115B2
A mixture of 4-[3-(tert-butyl-dimethyl-silanyloxy)-3-methyl-but-1-ynyl]-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester (318 mg, 0.64 mmol) and 10% Pd/C (32 mg, 10 wt %) in MeOH (30 mL) is hydrogenated for 18 hours at 55 psi (Parr shaker). After filtering through celite, the filtrate is concentrated, and the residue purified by flash chromatography to give 4-[3-(tert-butyl-dimethyl-silanyloxy)-3-methyl-butyl]-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester as a colorless oil.

reactant | 4-[3-(tert-butyl-dimethyl-silanyloxy)-3-methyl-but-1-ynyl]-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester | 0.64 mmol, 318 mg | C(C)OC(C1=C(N=C(C=C1C#CC(C)(C)O[Si](C)(C)C(C)(C)C)C1=C(C=CC=C1CC)CC)C)=O | C30H43NO3Si
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 32 mg | [Pd] | Pd
product | 4-[3-(tert-butyl-dimethyl-silanyloxy)-3-methyl-butyl]-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1CCC(C)(C)O[Si](C)(C)C(C)(C)C)C1=C(C=CC=C1CC)CC)C)=O | C30H47NO3Si
